US08377923B2
A solution of mesyl chloride (44 μl) in dichloromethane (1 ml) was slowly added to a solution of 1-[5-chloro-2-(1-methyl-1-{4-methyl-5-[2-(trifluoromethyl)phenyl]-4H-1,2,4-triazol-3-yl}ethoxy)phenyl]methanamine (200 mg) and triethylamine (98 μl) in dichloromethane (4 ml), followed by stirring at room temperature for 2 hours. Saturated aqueous sodium bicarbonate was added to the reaction solution to cease the reaction, followed by extraction with chloroform. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The resulting residue was purified by silica gel column chromatography (chloroform:methanol=97:3) and dissolved in ethyl acetate, and 4M hydrogen chloride-ethyl acetate was added thereto, followed by stirring at room temperature for 30 minutes. The reaction solution was concentrated under reduced pressure and the residue was washed with diisopropylether to obtain N-[5-chloro-2-(1-methyl-1-{4-methyl-5-[2-(trifluoromethyl)phenyl]-4H-1,2,4-triazol-3-yl}ethoxy)benzyl]methanesulfonamide monohydrochloride (148 mg), as an amorphous.

reactant | mesyl chloride | 44 μl | S(=O)(=O)(C)Cl | CH3ClO2S
reactant | 1-[5-chloro-2-(1-methyl-1-{4-methyl-5-[2-(trifluoromethyl)phenyl]-4H-1,2,4-triazol-3-yl}ethoxy)phenyl]methanamine | 200 mg | ClC=1C=CC(=C(C1)CN)OC(C)(C1=NN=C(N1C)C1=C(C=CC=C1)C(F)(F)F)C | C20H20ClF3N4O
reactant | triethylamine | 98 μl | C(C)N(CC)CC | C6H15N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
product | N-[5-chloro-2-(1-methyl-1-{4-methyl-5-[2-(trifluoromethyl)phenyl]-4H-1,2,4-triazol-3-yl}ethoxy)benzyl]methanesulfonamide monohydrochloride | 148 mg | Cl.ClC=1C=CC(=C(CNS(=O)(=O)C)C1)OC(C)(C1=NN=C(N1C)C1=C(C=CC=C1)C(F)(F)F)C | InChI=1S/C21H22ClF3N4O3S.ClH/c1-20(2,32-17-10-9-14(22)11-13(17)12-26-33(4,30)31)19-28-27-18(29(19)3)15-7-5-6-8-16(15)21(23,24)25;/h5-11,26H,12H2,1-4H3;1H
